US20010029256A1
3-(4-[2-(2,10-Dichloro-12H-5,7-dioxa-dibenzo[a,d]cycloocten-1 2-yloxy)-ethoxy]-phenyl)-2-ethoxy-propionic acid ethyl ester
To a solution of 12-(2-bromo-ethoxy)-2,10-dichloro-12H-5,7-dioxa-dibenzo[a,d]cyclooctene (404 mg, 1.0 mmol) and 2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (238 mg, 1.0 mmol) in dry toluene (6 mL) was added- potassium carbonate (276 mg, 2.0 mmol) and 18-crown-6 (528 mg, 2.0 mmol). The mixture was heated at 60° C. for 16 h. The mixture was filtered, and concentrated in vacuo. The residue was submitted to flash chromatography using toluene/ethyl acetate (19:1) as eluent to give 297 mg (53%) of the title compound; 1H NMR (300 MHz, CDCl3) δ1.18 (t, 3H), 1.25 (t, 3H), 2.96 (d, 2H), 3.30-3.42 (m, 1H), 3.55-3.65 (m, 1H), 3.90-3.95 (m, 2H), 4.0 (t, 1H), 4.15-425 (m, 4H), 4.55 (d, 1H), 5.87 (d, 1H), 6.18 (s, 1H), 6.88-6.95 (m, 4H), 7.10-7.25 (m, 4H), 7.60 (d, 2H).

reactant | 12-(2-bromo-ethoxy)-2,10-dichloro-12H-5,7-dioxa-dibenzo[a,d]cyclooctene | 1.0 mmol, 404 mg | BrCCOC1C2=C(OCOC3=C1C=C(C=C3)Cl)C=CC(=C2)Cl | C16H13BrCl2O3
reactant | 2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | 1.0 mmol, 238 mg | C(C)OC(C(CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | potassium carbonate | 2.0 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | 2.0 mmol, 528 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(4-[2-(2,10-Dichloro-12H-5,7-dioxa-dibenzo[a,d]cycloocten-1 2-yloxy)-ethoxy]-phenyl)-2-ethoxy-propionic acid ethyl ester | 297 mg, 53% | C(C)OC(C(CC1=CC=C(C=C1)OCCOC1C2=C(OCOC3=C1C=C(C=C3)Cl)C=CC(=C2)Cl)OCC)=O | C29H30Cl2O7
